US07563805B2
tert-Butyl(3S)-1-benzyloxycarbonyl-4-fluoro-3-methylpyrrolidine-3-carboxylate (isomer A)
To a solution of tert-butyl(3S)-4-fluoro-3-methyl-1-[(1R)-1-phenylethyl]-pyrrolidine-3-carboxylate (isomer A) (2.15 g, 6.99 mmol) in dichloromethane (40 mL), benzyloxycarbonyl chloride (1.50 mL, 10.5 mmol) was added, and the mixture was stirred in an oil bath at 60° C. for 20 hours. After concentrating the reaction mixture under reduced pressure, the concentrate was purified by silica gel column chromatography (elusion by hexane:ethyl acetate, 12:1→2:1) to obtain 1.81 g (77%) of the title compound (isomer A) as a colorless oily substance.

reactant | tert-butyl(3S)-4-fluoro-3-methyl-1-[(1R)-1-phenylethyl]-pyrrolidine-3-carboxylate | FC1[C@@](CN(C1)[C@H](C)C1=CC=CC=C1)(C(=O)OC(C)(C)C)C | C18H26FNO2
reactant | benzyloxycarbonyl chloride | 10.5 mmol, 1.50 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | tert-Butyl(3S)-1-benzyloxycarbonyl-4-fluoro-3-methylpyrrolidine-3-carboxylate | 1.81 g, 77% | C(C1=CC=CC=C1)OC(=O)N1C[C@](C(C1)F)(C(=O)OC(C)(C)C)C | C18H24FNO4
